US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine (Compound 48)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(3,4,5-trimethoxyphenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 94%). 1H NMR (300 MHz, CDCl3): δ 2.44-2.49 (m, 3H), 3.18-3.25 (m, 4H), 3.80-3.86 (m, 12H), 4.04-4.13 (m, 4H), 6.20 (s, 2H), 7.02-7.20 (m, 1H), 7.31-7.40 (m, 1H), 7.46-7.63 (m, 2H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(3,4,5-trimethoxyphenyl)piperazine | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine | 94% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C24H29N5O5
